Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
palpitation, lightheadedness, head heaviness/tingling
 
Major Surgical or Invasive Procedure:
cvEEG

 
History of Present Illness:
___ is a ___ year old neonatologist at ___ who
presents with one week of episodes lasting ___ minutes which 
are
characterized by palpitations, dizziness (lightheaded) followed
by blurred vision, "heavy sensation" in her head and sometimes
left face numbness/tingling. At times she has tingling which
starts in her neck and comes up the back of her head and into 
her
face. Episodes occur ___ times per day. She has no jerking, loss
of consciousness, speech arrest, urinary incontinence or
stiffening during these episodes. She has been to the ED three
times for these events. No prior events like this in the past 
and
no history of seizure. No recent new stressors at home or at
work. She has had a MRI w/ and w/o which was normal. Telemetry
has been unrevealing. She had a normal TTE. Spot cvEEG wnl. She
is now being transferred to ___ for further characterization 
of
these events.  

ROS: 

On neurologic review of systems, the patient denies confusion.
Denies difficulty with producing or comprehending speech. Denies
loss of vision, blurred vision, diplopia, vertigo, tinnitus,
hearing difficulty, dysarthria, or dysphagia. Denies focal 
muscle
weakness. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  No recent change in bowel or bladder habits.  No dysuria. 

Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- MVP (however not present on recent TTE)
- ovarian cystectomy

 
Social History:
___
Family History:
Mother has hypertension, hypothyroidism, and father has
hypertension ___. No history of stroke, multiple
sclerosis, or other
autoimmune disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
Vitals: 98.4 PO 105 / 70 69 18 99 Ra 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2. intermittent irregularity noted.
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  1  1    1    1   1
 R  1  1    1    1   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: not tested

DISCHARGE PHYSICAL EXAM: 
=======================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2. intermittent irregularity noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 IX, X: Palate elevates symmetrically.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch.

-Coordination: No intention tremor. 

 
Pertinent Results:
ADMISSION LABS (___):

4.5>11.7<163

INR: 1.2

141/103/9
---------<86
3.6/25/.7

Mg 1.92

AST/ALT: ___
Alb 4.4

LDL: 90
Trop <.01
TSH 1.4
bHCG <5
CRP <.03
UA: no leuk esterase 
**pending: urine metanephrines 

************
IMAGING (___): 

+Spot EEG (___): This is normal routine EEG in awake and
drowsy state. There are no focal lateralizing epileptiform
features noted.

+ ___ (___):    
CTA HEAD: The vessels of the circle of ___ and their 
principal
intracranial branches appear normal without stenosis, occlusion,
or aneurysm formation.  The dural venous sinuses are patent.
Small mucous retention cyst present in the right maxillary 
sinus.
      
CTA NECK: The carotid and vertebral arteries and their major
branches appear normal with no evidence of stenosis or 
occlusion.
There is no evidence of internal carotid stenosis by NASCET
criteria.

+ ___ MRI w/ and w/o (___):  The brainstem appears
normal in signal intensity on thin section T2 weighted images 
and
postcontrast images.  The cisternal segments of the fifth 
cranial
nerves and respective gasserian ganglia appear normal.  No
abnormal intracranial enhancement is identified.

+ ___: The left atrium is normal in size. No atrial septal
defect or patent foramen ovale is seen by 2D, color Doppler or
saline contrast with maneuvers. The estimated right atrial
pressure is ___ mmHg. Left ventricular wall thickness, cavity
size and regional/global systolic function are normal (LVEF
>55%). No masses or thrombi are seen in the left ventricle. 
There
is no ventricular septal defect. Right ventricular chamber size
and free wall motion are normal. The number of aortic valve
leaflets cannot be determined. No masses or vegetations are seen
on the aortic valve. There is no aortic valve stenosis. No 
aortic
regurgitation is seen. The mitral valve appears structurally
normal with trivial mitral regurgitation. There is no mitral
valve prolapse. No mass or vegetation is seen on the mitral
valve. The estimated pulmonary artery systolic pressure is
normal. Hyperechoic smoke like flow in LV represents artifact
only.  

+cvEEG ___: 
Normal wake and sleep. No epileptiform discharges. Final read 
pending.

 
Brief Hospital Course:
Dr. ___ is a ___ year old neonatologist who has been healthy 
who presented for characterization of episodes of palpitations, 
lightheadedness and intermittent numbness/tingling of face. She 
reported no other jerking, audiovisual aura, incontinence prior 
or during the episodes. She does get emotional/tearful after the 
episodes. She has no prior history of seizure and no family 
history of seizure. Her exam was unremarkable. Cardiology 
work-up at ___ notable for unremarkable TTE and Holter 
with unrevealing rhythm. Other w/u notable for normal CTA head 
and neck as well as normal MRI w/ and w/o contrast. TSH at ___ 
wnl. Urine pending for metanephrines from BIN to r/o 
neuroendocrine tumor. She was connected to continuous EEG. She 
had several of her events without EEG correlate (no epileptiform 
discharges). Her symptoms may be due to hyperventilation or 
anxiety. We discussed beta blocker vs. SSRI for symptom 
management with Dr. ___. This will continued to be 
addressed as an outpatient pending urine metanephrine results. 

TRANSITIONAL ISSUES: 
====================
[] Follow-up with PCP regarding symptom management (beta blocker 
vs. SSRI)
[] Follow up urine metanephrines (___) to r/o 
neuroendocrine tumor
 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Palpitations
Dizziness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were admitted to the hospital to see if your episodes of 
palpitations, lightheadedness, head heaviness and face numbness 
were seizures. ___ had a continuous EEG which showed these 
episodes are not seizures. Your prior cardiac work-up had not 
revealed a cause of these episodes. ___ have labs pending to 
check for a neuroendocrine tumor. 

We discussed options of a beta blocker or even an SSRI to help 
with your symptoms, as these could be related to 
hyperventilation or even anxiety. When the work-up is complete, 
___ can consider starting these medications in conjunction with 
your PCP. ___ did get one dose of clonazepam before discharge 
here. ___ will need to call your primary care to discuss further 
medication plans. 

We wish ___ the best!
- Your ___ Team
 
Followup Instructions:
___